US09388195B2
Production of 2-[(diethylamino)methyl]-6-(5-methyl-1H-pyrazol-4-yl)thieno[3,2-d]pyrimidin-4 (3H)-one
0.57M Diethylamine/N,N-dimethylacetamide solution (0.7 mL), 0.15M sodium iodide/N,N-dimethylacetamide solution (0.2 mL), and 0.12 M 6-bromo-2-(chloromethyl)thieno[3,2-d]pyrimidin-4 (3H)-one/N,N-dimethylacetamide solution (1.0 mL) were successively added to potassium carbonate (33.2 mg), and the mixture was stirred at 70° C. for 2.5 hr. Insoluble material was removed by filtration, and the filtrate was purified by high performance liquid chromatography {column: YMC CombiPrep Pro C18 RS (20 mm i.d.×50 mm L), mobile phase: acetonitrile/10% aqueous ammonium formate solution}. The obtained compound was dissolved in 1,2-dimethoxyethane (0.5 mL), 0.48M tert-butyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate/DME solution (0.5 mL), 0.96M aqueous calcium carbonate solution (0.5 mL), and [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride-dichloromethane complex (1:1) (10 mg) were added, and the mixture was stirred at 100° C. for 4 hr under a nitrogen atmosphere. Insoluble material was removed by filtration, and the filtrate was purified by high performance liquid chromatography {column: YMC CombiPrep Pro C18 RS (20 mm i.d.×50 mm L), mobile phase: acetonitrile/10% aqueous ammonium formate solution} to give the title compound (8.5 mg).

reactant | Diethylamine N,N-dimethylacetamide | 0.57M, 0.7 mL | C(C)NCC.CN(C(C)=O)C
reactant | sodium iodide N,N-dimethylacetamide | 0.15M, 0.2 mL | [I-].[Na+].CN(C(C)=O)C
reactant | 6-bromo-2-(chloromethyl)thieno[3,2-d]pyrimidin-4 (3H)-one N,N-dimethylacetamide | 0.12 M, 1.0 mL | BrC1=CC=2N=C(NC(C2S1)=O)CCl.CN(C(C)=O)C
reactant | potassium carbonate | 33.2 mg | C([O-])([O-])=O.[K+].[K+]
product | 2-[(diethylamino)methyl]-6-(5-methyl-1H-pyrazol-4-yl)thieno[3,2-d]pyrimidin-4 (3H)-one | 8.5 mg | C(C)N(CC)CC=1NC(C2=C(N1)C=C(S2)C=2C=NNC2C)=O | C15H19N5OS
